### PR TITLE
[Merged by Bors] - feat: Schur's lemma over an algebraically closed field

### PR DESCRIPTION
**Pull request by stepan2698-cpu**
Adds a new file with facts about algebra representations. Proves Schur's lemma (any endomorphism of an algebra representation over an algebraically closed field is scalar) and proves that every finite-dimensional representation of a commutative algebra over an algebraically closed field is one-dimensional.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RepresentationTheory/AlgebraRepresentation/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,79 @@
...
+  rw [Module.End.HasEigenvalue, Module.End.HasUnifEigenvalue] at hc
+  apply Submodule.exists_mem_ne_zero_of_ne_bot at hc
+  obtain ⟨b, hb, b_nz⟩ := hc
+  rw [Module.End.mem_genEigenspace_one] at hb
+  specialize @inj b 0
+  apply b_nz
+  apply inj
+  dsimp [g]
+  simp only [neg_smul, map_zero, smul_zero, add_zero]
+  exact add_neg_eq_zero.mpr hb
```
Comment (alreadydone) [inline Mathlib/RepresentationTheory/AlgebraRepresentation/Basic.lean]:
```suggestion
  have : Module.Finite k (Module.End A V) := .of_injective (LinearMap.restrictScalarsₗ k A V V k) <|
    LinearMap.restrictScalars_injective _
  classical obtain ⟨a, rfl⟩ := IsAlgClosed.algebraMap_bijective_of_isIntegral (k := k).2 f
  exact ⟨a, fun _ ↦ rfl⟩
```
maybe some hypotheses could be generalized too ...?

File: Mathlib/RepresentationTheory/AlgebraRepresentation/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,79 @@
...
+      exact (k ∙ v).smul_mem' t hw
+  }
+  obtain hU | hU := eq_bot_or_eq_top U
+  · exfalso
+    have hv : v ∈ U := by exact Submodule.mem_span_singleton_self v
+    rw [hU] at hv
+    exact v_nz hv
+  · rw [finrank_eq_one_iff_of_nonzero v v_nz]
+    rw [Submodule.eq_top_iff'] at hU ⊢
+    exact hU
```
Comment (alreadydone) [inline Mathlib/RepresentationTheory/AlgebraRepresentation/Basic.lean]:
```suggestion
variable {A V : Type*} (k : Type*) [Field k] [Ring A] [Algebra k A] [AddCommGroup V] [Module k V]
  [Module A V] [IsScalarTower k A V]
  [IsSimpleModule A V] [FiniteDimensional k V] [IsAlgClosed k]

/-- Schur's Lemma: If `V` is a representation of an algebra `A` over an algebraically closed field
`k`, then any endomorphism of `V` is scalar. -/
theorem IsSimpleModule.algebraMap_end_bijective_of_isAlgClosed :
    Function.Bijective (algebraMap k (Module.End A V)) := by
  have : Module.Finite k (Module.End A V) := .of_injective (LinearMap.restrictScalarsₗ k A V V k) <|
    LinearMap.restrictScalars_injective _
  classical exact IsAlgClosed.algebraMap_bijective_of_isIntegral (k := k)

variable (A V)

/-- Any finite-dimensional irreducible representation of a commutative algebra over an algebraically
closed field is one-dimensional. -/
theorem IsSimpleModule.finrank_eq_one_of_isMulCommutative [IsMulCommutative A] :
    Module.finrank k V = 1 := by
  have : Nontrivial V := IsSimpleModule.nontrivial A V
  obtain ⟨v, v_nz⟩ := exists_ne (0 : V)
  set U : Submodule A V := { Submodule.span k {v} with
    smul_mem' a w hw := by
      have ⟨t, ht⟩ := (IsSimpleModule.algebraMap_end_bijective_of_isAlgClosed k).2
        (Module.toModuleEnd A V a)
      simpa only [← show _ = a • w from congr($ht w)] using (k ∙ v).smul_mem t hw }
  obtain hU | hU := eq_bot_or_eq_top U
  · exact (v_nz <| hU.le <| Submodule.mem_span_singleton_self v).elim
  · rw [finrank_eq_one_iff_of_nonzero v v_nz]
    rwa [← top_le_iff] at hU ⊢
```
I changed the statement of the first lemma to a clearly equivalent form that's easier to apply.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
